US06313145B1
3-Methyl-5-nitro-2-(pyridin-2-ylmethyloxy)pyridine (D14)
2-Pyridylcarbinol (1.96 g, 18 mmol) in dry dimethylformamide (20 ml) was cooled to −20° C. and treated with sodium hydride (0.48 g of 80% dispersion in mineral oil, 16 mmol). The mixture was stirred under argon at −20° C. for one hour then a solution of 2-chloro-3-methyl-5-nitropyridine (2.07 g, 12 mmol) in dry dimethylformamide (10 ml) was added and the mixture was allowed to warn to room temperature over 16 hours. The solvent was removed in vacuo and the residue partitioned between dichloromethane (3×100 ml) and 10% aqueous sodium hydroxide solution(75 ml). The combined organics were dried (Na2SO4) and evaporated in vacuo to a residue which was subjected to flash column chromatography with 1:1 ethyl acetate/petroleum ether as eluant to afford the title compound (1.47 g, 51%) as lemon yellow crystals.

reactant | 2-Pyridylcarbinol | 18 mmol, 1.96 g | N1=C(C=CC=C1)CO | C6H7NO
reactant | sodium hydride | 16 mmol, 0.48 g | [H-].[Na+]
reactant | 2-chloro-3-methyl-5-nitropyridine | 12 mmol, 2.07 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-5-nitro-2-(pyridin-2-ylmethyloxy)pyridine | 1.47 g, 51% | CC=1C(=NC=C(C1)[N+](=O)[O-])OCC1=NC=CC=C1 | C12H11N3O3
